US07297808B2
a) [1S-[1α(βS*,δS*),2α,6α,8β-(R*),8aα]]-1,2,6,7,8,8a-Hexahydro-β,δ,6-trihydroxy-2-methyl-8-(2-methyl-1-oxobutoxy)-1-naphthaleneheptanoic acid 4-bromobutyl ester
To a solution of pravastatin sodium (9.25 g, 21 mmol) in N,N-dimethylformamide (70 ml) a mixture of 1,4-dibromobutane (3.68 ml, 31 mmol) in N,N-dimethylformamide (30 ml) was added dropwise. The reaction mixture was stirred at room temperature for 24 h. The solution was then treated with water and diethyl ether, the organic layers were dried with sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography, with n-hexane/ethyl acetate 3/7 as eluent. The title compound was obtained as a white powder (7.8 g).

reactant | pravastatin sodium | 21 mmol, 9.25 g | CC[C@H](C)C(=O)O[C@H]1C[C@@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@H](C[C@H](CC(=O)[O-])O)O)O.[Na+]
reactant | 1,4-dibromobutane | 31 mmol, 3.68 ml | BrCCCCBr | C4H8Br2
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,2,6,7,8,8a-Hexahydro-β,δ,6-trihydroxy-2-methyl-8-(2-methyl-1-oxobutoxy)-1-naphthaleneheptanoic acid 4-bromobutyl ester | BrCCCCOC(CC(CC(CCC1C(C=CC2=CC(CC(C12)OC(C(CC)C)=O)O)C)O)O)=O | C27H43BrO7
